US09284331B2
Step 2: 5-(1H-imidazol-4-yl)isoxazole.
A mixture of (E)-3-(dimethylamino)-1-(1-trityl-1H-imidazol-4-yl)prop-2-en-1-one (54.0 g, 133 mmol) and HONH2*HCl (10.13 g, 146 mmol) in MeOH (800 mL) was heated to reflux for 18 h. The mixture was then allowed to cool to RT and was concentrated in vacuo. The residue obtained was taken up in DCM and washed with H2O. The org. phase was then dried over Na2SO4, filtered and concentrated in vacuo. The residue obtained was stirred in Et2O, and the suspension was filtered. The filter cake was dried in vacuo at 40° C. The aqueous phase was then concentrated in vacuo and the residue obtained was placed in a Soxlet apparatus and continuously extracted with DCM for 36 h. The organic phase was then concentrated in vacuo and the residue obtained was stirred in DCM. The suspension was then filtered and the filter cake was dried in vacuo at 40° C. The two filter cakes were then crystallized in AcOEt to give the title compound (5.44 g). UPLC-MS: MS 136.1 (M+H+); UPLC rt 0.33 min.

reactant | (E)-3-(dimethylamino)-1-(1-trityl-1H-imidazol-4-yl)prop-2-en-1-one | 133 mmol, 54.0 g | CN(/C=C/C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C27H25N3O
reactant | HONH2 | 146 mmol, 10.13 g | ON | H3NO
solvent | MeOH | 800 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | 5-(1H-imidazol-4-yl)isoxazole | 5.44 g | N1C=NC(=C1)C1=CC=NO1 | C6H5N3O
